US05750531
Step 3: 5,6-Dimethyl-4-(2-methyl-4-fluorophenylamino)-2-(1,2,3,4-tetrahydroisoquinoline-2-yl)pyrimidine hydrochloride
After 2-methyl-4-fluoroaniline(0.3 ml, 2.7 mmol) was added to a mixture solution of (5,6-dimethyl-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloropyrimidine(0.30 g, 1.0 mmol) and dimethylformamide(10 ml), 0.12 g of the titled compound was obtained in accordance with the same procedure as in Step 4 of Example 57.

reactant | 2-methyl-4-fluoroaniline | 2.7 mmol, 0.3 ml | CC1=C(N)C=CC(=C1)F | C7H8FN
reactant | 5,6-dimethyl-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloropyrimidine | 1.0 mmol, 0.30 g | CC=1C(=NC(=NC1C)N1CC2=CC=CC=C2CC1)Cl | C15H16ClN3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5,6-Dimethyl-4-(2-methyl-4-fluorophenylamino)-2-(1,2,3,4-tetrahydroisoquinoline-2-yl)pyrimidine hydrochloride | 0.12 g, Yield: 30% | Cl.CC=1C(=NC(=NC1C)N1CC2=CC=CC=C2CC1)NC1=C(C=C(C=C1)F)C | InChI=1S/C22H23FN4.ClH/c1-14-12-19(23)8-9-20(14)25-21-15(2)16(3)24-22(26-21)27-11-10-17-6-4-5-7-18(17)13-27;/h4-9,12H,10-11,13H2,1-3H3,(H,24,25,26);1H
